US06242443B1
(3-Isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetic acid
Ethyl (3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetate (0.22 g) was stirred in 5 ml of 4M aqueous sodium hydroxide at room temperature for 1 h. The reaction mixture was then acidified with 4M hydrochloric acid. The resulting precipitate was collected by filtration, the filter cake was rinsed with a small amount of water and dried to give 0.17 g of the title compound, m.p. 262-264° C.

reactant | Ethyl (3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetate | 0.22 g | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC(=O)OCC)(=O)=O | C14H19N3O4S
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | sodium hydroxide | 4M, 5 ml | [OH-].[Na+]
product | (3-Isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetic acid | 0.17 g | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC(=O)O)(=O)=O | C12H15N3O4S
